US07666879B2
B. [2-Fluoro-4-(7-pyridin-4-yl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-acetic acid dihydrochloride
Suspend [2-fluoro-4-(7-pyridin-4-yl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-acetic acid tert-butyl ester (1.36 g, 3.369 mmol) in water (8 mL) and 4N hydrochloric acid in dioxane (40 mL) and stir at ambient temperature for 3 hours. Concentration under vacuum quantitatively provides the title compound (1.42 g, 3.69 mmol). MS(ES), m/z 348 (M+1).

reactant | [2-fluoro-4-(7-pyridin-4-yl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-acetic acid tert-butyl ester | 3.369 mmol, 1.36 g | C(C)(C)(C)OC(CC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=C2)C2=CC=NC=C2)F)=O | C24H22FN3O2
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | water | 8 mL | O | H2O
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | [2-Fluoro-4-(7-pyridin-4-yl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-acetic acid dihydrochloride | 3.69 mmol, 1.42 g | Cl.Cl.FC1=C(C=CC(=C1)C1=CN=C2N1C=CC(=C2)C2=CC=NC=C2)CC(=O)O | InChI=1S/C20H14FN3O2.2ClH/c21-17-9-16(2-1-15(17)11-20(25)26)18-12-23-19-10-14(5-8-24(18)19)13-3-6-22-7-4-13;;/h1-10,12H,11H2,(H,25,26);2*1H
